US07714126B2
With a procedure similar to example 16 above, 5-methyl-2-phenyl-2H-[1,2,3]triazole-4-carboxylic acid {6-[(2-methoxy-ethyl)-methyl-amino]-pyridin-3-yl}-amide was prepared from 5-methyl-2-phenyl-2H-[1,2,3]triazole-4-carboxylic acid and N2-(2-methoxy-ethyl)-N2-methyl-pyridine-2,5-diamine. LCMS calcd for C19H22N6O2 (m/e) 366, obsd 367 (M+H). The NMR spectrum obtained on the sample is compatible with its structure.

reactant | 5-methyl-2-phenyl-2H-[1,2,3]triazole-4-carboxylic acid | CC=1C(=NN(N1)C1=CC=CC=C1)C(=O)O | C10H9N3O2
reactant | N2-(2-methoxy-ethyl)-N2-methyl-pyridine-2,5-diamine | COCCN(C1=NC=C(C=C1)N)C | C9H15N3O
product | 5-methyl-2-phenyl-2H-[1,2,3]triazole-4-carboxylic acid {6-[(2-methoxy-ethyl)-methyl-amino]-pyridin-3-yl}-amide | COCCN(C1=CC=C(C=N1)NC(=O)C1=NN(N=C1C)C1=CC=CC=C1)C | C19H22N6O2
